US04242342
Methyl 3,4-dihydro-3-oxo-2-quinoxalineacetate
Dimethyl acetylenedicarboxylate (31.2 g., 0.22 mol.) was added slowly to a solution of o-phenylenediamine (21.6 g., 0.2 mol.) in methanol (400 ml.). The reaction mixture was stirred at room temperature for three hours and then cooled in an ice bath. The yellow solid was collected and washed with cold methanol. The solid was recrystallized from tetrahydrofuran (27.7 g., m.p. 230°-232° dec.).

reactant | Dimethyl acetylenedicarboxylate | 0.22 mol, 31.2 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | o-phenylenediamine | 0.2 mol, 21.6 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | methanol | 400 ml | CO | CH4O
product | Methyl 3,4-dihydro-3-oxo-2-quinoxalineacetate | O=C1C(=NC2=CC=CC=C2N1)CC(=O)OC | C11H10N2O3
